US06353017B1
A. 4-(2-Chloroethylsulfanyl)-benzoic acid
4-Mercaptobenzoic acid (65 mmol) and 1-Bromo-2-chloro-ethane (71 mmol) are dissolved in acetone (120 ml) and powdered potassium carbonate (71 mmol) is added. The mixture is warmed up to 40° C. and stirred for 7 hours. After evaporation of the solvent, the residue is extracted with ethyl acetate. The extract is washed with water and dried over sodium sulfate and evaporated. The crude product is suspended in diethylether and the solid filtered of and dried (vacuum). 7.8 g of a white powder with mp. 142-144° C., Rf=0.37 (methylenchlorid/methanol=9/1) is obtained.

reactant | 4-Mercaptobenzoic acid | 65 mmol | SC1=CC=C(C(=O)O)C=C1 | C7H6O2S
reactant | 1-Bromo-2-chloro-ethane | 71 mmol | BrCCCl | C2H4BrCl
reactant | potassium carbonate | 71 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 120 ml | CC(=O)C | C3H6O
product | 4-(2-Chloroethylsulfanyl)-benzoic acid | 7.8 g | ClCCSC1=CC=C(C(=O)O)C=C1 | C9H9ClO2S
